### PR TITLE
[Merged by Bors] - feat: clean up `PositiveLinearMap` and add API

### PR DESCRIPTION
**Pull request by j-loreaux**
Among other things, this removes the coercion from the morphism class into the morphism type, and renames the underlying convenience constructor to `PositiveLinearMap.ofClass`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Module/PositiveLinearMap.lean [hunk 1]
```diff
@@ -67,23 +68,45 @@ namespace PositiveLinearMap
...
 
+initialize_simps_projections PositiveLinearMap (toFun → apply)
+
 @[ext]
 lemma ext {f g : E₁ →ₚ[R] E₂} (h : ∀ x, f x = g x) : f = g :=
   DFunLike.ext f g h
 
+variable (R E₁) in
+/-- The identity as a positive linear map. -/
+@[simps! apply toLinearMap] protected def id : E₁ →ₚ[R] E₁ where
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Module/PositiveLinearMap.lean:92]: you already have `toLinearMap_id` right below
```suggestion
@[simps! apply] protected def id : E₁ →ₚ[R] E₁ where
```

File: Mathlib/Algebra/Order/Module/PositiveLinearMap.lean [hunk 2]
```diff
@@ -159,6 +182,28 @@ instance : AddCommMonoid (E₁ →ₚ[R] E₂) :=
...
 
+section MulOpposite
+-- this section is probably unnecessary
+open MulOpposite
+
+variable {R E : Type*} [Semiring R] [AddCommMonoid E] [PartialOrder E] [Module R E]
+
+/-- `MulOpposite.op` as a positive linear map -/
+@[simps!]
+protected def op : E →ₚ[R] Eᵐᵒᵖ where
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Module/PositiveLinearMap.lean]: This should be in the `MulOpposite` namespace and be called `MulOpposite.opPositiveLinearMap` and the one below `MulOpposite.unopPositiveLinearMap`.

But, also, some missing basic API like, `unop.comp op = id`, `op.comp unop = id`, `toLinearMap_op`, `toLinearMap_unop`, etc.

**Comment by j-loreaux** [comment]
good points, I'm upstreaming too lazily

File: Mathlib/Algebra/Order/Module/PositiveLinearMap.lean (hunk 2 above)
Comment (j-loreaux) [reply Mathlib/Algebra/Order/Module/PositiveLinearMap.lean]: @themathqueen I've opted just to remove all this. I realized after your comment that it should really be an equiv, but we don't have `PositiveLinearEquiv`, so it's a bit pointless to add this, especially because I realized it was unused in LeanOA. I forget why I wrote it, so I think it makes more sense to trash it. I've opened a PR there to do the same thing.

File: Mathlib/Algebra/Order/Module/PositiveLinearMap.lean (hunk 1 above)
Comment (j-loreaux) [reply Mathlib/Algebra/Order/Module/PositiveLinearMap.lean:92]: 🤦 I've opted to instead delete the lemma below.

File: Mathlib/Algebra/Order/Module/PositiveLinearMap.lean [hunk 3]
```diff
@@ -67,23 +68,44 @@ namespace PositiveLinearMap
...
-  coe_injective f g h := by
+  coe_injective' f g h := by
     cases f
     cases g
     congr
-    apply DFunLike.coe_injective
+    apply DFunLike.coe_injective'
     exact h
 
+initialize_simps_projections PositiveLinearMap (toFun → apply)
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Module/PositiveLinearMap.lean]: So I just checked, and no positive linear map is using `simps toLinearMap` in their definition, so how about we change this to a prefix here?

```suggestion
initialize_simps_projections PositiveLinearMap (toFun → apply, as_prefix toLinearMap)
```

I don't like `toLinearMap` being a postfix. Especially here where `toOrderHom` is prefixed in the name for `toOrderHom_id`.

File: Mathlib/Algebra/Order/Module/PositiveLinearMap.lean [hunk 4]
```diff
@@ -67,23 +68,44 @@ namespace PositiveLinearMap
...
+/-- The identity as a positive linear map. -/
+@[simps! apply toLinearMap] protected def id : E₁ →ₚ[R] E₁ where
+  __ := LinearMap.id
+  __ := OrderHom.id
+
+@[simp] lemma toOrderHom_id : (PositiveLinearMap.id R E₁).toOrderHom = .id := rfl
+
+/-- The composition of positive linear maps is again a positive linear map. -/
+@[simps! apply toLinearMap]
+def comp (g : E₂ →ₚ[R] E₃) (f : E₁ →ₚ[R] E₂) : E₁ →ₚ[R] E₃ where
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Module/PositiveLinearMap.lean:100]: can you also add `toOrderHom_comp`?

File: Mathlib/Algebra/Order/Module/PositiveLinearMap.lean [hunk 5]
```diff
@@ -38,24 +40,23 @@ add_decl_doc PositiveLinearMap.toOrderHom
...
-/-- Reinterpret an element of a type of positive linear maps as a positive linear map. -/
-instance instCoeToLinearMap : CoeHead F (E₁ →ₚ[R] E₂) where
-  coe f := toPositiveLinearMap f
+@[deprecated (since := "2026-06-10")]
+alias PositiveLinearMapClass.toPositiveLinearMap := PositiveLinearMap.ofClass
 
-/-- An additive group homomorphism that maps nonnegative elements to nonnegative elements
-is an order homomorphism. -/
-lemma _root_.OrderHomClass.of_addMonoidHom {F' E₁' E₂' : Type*} [FunLike F' E₁' E₂'] [AddGroup E₁']
+/-- A a type of additive group homomorphisms that map nonnegative elements to nonnegative elements
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Module/PositiveLinearMap.lean]:
```suggestion
/-- A type of additive group homomorphisms that map nonnegative elements to nonnegative elements
```

File: Mathlib/Algebra/Order/Module/PositiveLinearMap.lean [hunk 6]
```diff
@@ -8,6 +8,8 @@ module
 public import Mathlib.Algebra.Module.LinearMap.Defs
 public import Mathlib.Algebra.Order.Hom.Monoid
 public import Mathlib.Tactic.ContinuousFunctionalCalculus
+public import Mathlib.Algebra.Module.Equiv.Opposite
+public import Mathlib.Algebra.Order.Group.Opposite
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Module/PositiveLinearMap.lean]: I think you can remove these now?
```suggestion
```

**Review by themathqueen — COMMENTED** [review]
Thanks!

maintainer delegate

**Comment by ocfnash** [comment]
bors merge
